US08440652B2
General method D was applied to N-ethyl-N,4-dimethyl-6-(trimethylstannyl)pyridine-3-sulfonamide (226 mg, 0.6 mmol) and 6-(2-amino-5-bromopyridin-3-yl)-3,4-dihydroisoquinolin-1(2H)-one (190 mg, 0.6 mmol) to give 6′-amino-N-ethyl-N,4-dimethyl-5′-(1-oxo-1,2,3,4-tetrahydroisoquinolin-6-yl)-[2,3′-bipyridine]-5-sulfonamide as a yellow solid (41 mg, 33% yield) after purification by reverse phase preparatory HPLC. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.84-8.88 (m, 2H), 8.56 (s, 1H), 8.23 (s, 1H), 8.06 (br. s., 1H), 8.00 (d, J=7.8 Hz, 1H), 7.49-7.56 (m, 2H), 3.38-3.48 (m, 2H), 3.23 (q, J=7.0 Hz, 2H), 3.00 (t, J=6.3 Hz, 2H), 2.81 (s, 3H), 2.61 (s, 3H), 1.09 (t, J=7.0 Hz, 3H); MS (EI) m/z=452.5 [M+1]+.

reactant | N-ethyl-N,4-dimethyl-6-(trimethylstannyl)pyridine-3-sulfonamide | 0.6 mmol, 226 mg | C(C)N(S(=O)(=O)C=1C=NC(=CC1C)[Sn](C)(C)C)C
reactant | 6-(2-amino-5-bromopyridin-3-yl)-3,4-dihydroisoquinolin-1(2H)-one | 0.6 mmol, 190 mg | NC1=NC=C(C=C1C=1C=C2CCNC(C2=CC1)=O)Br | C14H12BrN3O
product | 6′-amino-N-ethyl-N,4-dimethyl-5′-(1-oxo-1,2,3,4-tetrahydroisoquinolin-6-yl)-[2,3′-bipyridine]-5-sulfonamide | 41 mg, 33% yield | NC1=C(C=C(C=N1)C1=NC=C(C(=C1)C)S(=O)(=O)N(C)CC)C=1C=C2CCNC(C2=CC1)=O | C23H25N5O3S
